US07414063B2
1-Hydroxy-isoquinoline-5-sulfonic acid {2-[2-(2-trifluoromethyl-phenoxy)-ethylamino]-ethyl}-amide hydrochloride
A 0.6 mL 5N HCl solution is added to a stirred solution of 1-chloro-isoquinoline-5-sulfonic acid {2-[2-(2-trifluoromethyl-phenoxy)-ethylamino]-ethyl}-amide (70 mg, 0.15 mmol) in THF (1 mL) at ambient temperature under nitrogen. The resultant mixture is heated at 65° C. for 16 hours. At ambient temperature, the mixture is concentrated. The crude product is dissolved in a small amount of MeOH/CH2Cl2 before it is treated with Et2O to form a white suspension. After filtration and vacuum drying, 24 mg (0.49 mmol, 33% yield) of the title compound is obtained as a white powder. ESIMS: m/z 456 (M+H)+.

reactant | HCl | 5N, 0.6 mL | Cl | ClH
reactant | 1-chloro-isoquinoline-5-sulfonic acid {2-[2-(2-trifluoromethyl-phenoxy)-ethylamino]-ethyl}-amide | 0.15 mmol, 70 mg | FC(C1=C(OCCNCCNS(=O)(=O)C=2C=3C=CN=C(C3C=CC2)Cl)C=CC=C1)(F)F | C20H19ClF3N3O3S
reactant | THF | 1 mL | C1CCOC1 | C4H8O
product | 1-Hydroxy-isoquinoline-5-sulfonic acid {2-[2-(2-trifluoromethyl-phenoxy)-ethylamino]-ethyl}-amide hydrochloride | 0.49 mmol, 24 mg, 33% yield | Cl.FC(C1=C(OCCNCCNS(=O)(=O)C=2C=3C=CN=C(C3C=CC2)O)C=CC=C1)(F)F | InChI=1S/C20H20F3N3O4S.ClH/c21-20(22,23)16-5-1-2-6-17(16)30-13-12-24-10-11-26-31(28,29)18-7-3-4-15-14(18)8-9-25-19(15)27;/h1-9,24,26H,10-13H2,(H,25,27);1H
